US04097579
To a solution of 300 mg. of 5-(N-methyl-2-pyrroyl)-1,2 -dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 5 ml. of methanol is added 1 molar equivalent of sodium hydroxide, in the form of a 0.1N solution. The solvent is then evaporated under reduced pressure and the residue taken up in 2 ml. of methanol, followed by precipitation with ether, to yield crude sodium 5-(N-methyl -2-pyrroyl)-1,2-dihydro-3H-pyrrolo-[1,2-a]pyrrole-1-carboxylate which can be crystallized from ethyl acetate-hexane.

reactant | 5-(N-methyl-2-pyrroyl)-1,2 -dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | CN1C(=CC=C1)C(=O)C1=CC=C2N1CCC2C(=O)O | C14H14N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | sodium 5-(N-methyl -2-pyrroyl)-1,2-dihydro-3H-pyrrolo-[1,2-a]pyrrole-1-carboxylate | CN1C(=CC=C1)C(=O)C1=CC=C2N1CCC2C(=O)[O-].[Na+] | InChI=1S/C14H14N2O3.Na/c1-15-7-2-3-11(15)13(17)12-5-4-10-9(14(18)19)6-8-16(10)12;/h2-5,7,9H,6,8H2,1H3,(H,18,19);/q;+1/p-1
